US09084794B2
e) 4-(1-(hydroxymethyl)cyclopropyl)-1-oxa-4,9-diazaspiro[5.5]undecan-3-one
A solution of tert-butyl 4-(1-(((tert-butyldimethylsilyl)oxy)methyl)cyclopropyl)-3-oxo-1-oxa-4,9-diazaspiro[5.5]undecane-9-carboxylate (0.988 mmol) in 1,4-dioxane (2 mL) was treated with 4N HCl in dioxane (8.00 mmol). The reaction was stirred at room temperature for 2.5 h. The reaction contents were then concentrated to dryness in vacuo, at which point it was determined that not all of the starting material had been consumed. The material was suspended in 1,4-dioxane (2 mL) and was treated with 4N HCl in dioxane (8.00 mmol). The mixture was allowed to stir at 50° C. for 2 h, at which point the reaction contents were concentrated to dryness in vacuo. The material was diluted with dichloromethane (5 mL) and was concentrated to dryness again to afford the crude title compound as a hydrochloride salt. The crude product was used directly in the next step. MS(ES)+ m/e 241.0 [M+H]+.

reactant | tert-butyl 4-(1-(((tert-butyldimethylsilyl)oxy)methyl)cyclopropyl)-3-oxo-1-oxa-4,9-diazaspiro[5.5]undecane-9-carboxylate | 0.988 mmol | [Si](C)(C)(C(C)(C)C)OCC1(CC1)N1C(COC2(C1)CCN(CC2)C(=O)OC(C)(C)C)=O | C23H42N2O5Si
reactant | HCl | 4N | Cl | ClH
reactant | HCl | 4N | Cl | ClH
solvent | 1,4-dioxane | 2 mL | O1CCOCC1 | C4H8O2
solvent | dioxane | 8.00 mmol | O1CCOCC1 | C4H8O2
solvent | dioxane | 8.00 mmol | O1CCOCC1 | C4H8O2
product | 4-(1-(hydroxymethyl)cyclopropyl)-1-oxa-4,9-diazaspiro[5.5]undecan-3-one | OCC1(CC1)N1C(COC2(C1)CCNCC2)=O | C12H20N2O3
